US05744489
C. 3-(3-Hexylthio-1,2,5-thiadiazol-4-yl)-6-methylpyridine
Sodium hydrogen sulfide monohydrate (0.33 g, 4.4 mmol) was added to a solution of 3-(3-chloro-1,2,5-thiadiazol-4-yl)-6-methylpyridine (0.85 g, 4mmol) in DMF (20 ml) at room temperature and the reaction mixture was stirred for 1 h. Potassium carbonate (1.65 g, 12 mmol) and 1-hexylbromide (0.99 g, 6 mmol) were added and the reaction mixture was stirred for additionally 24 h. 1N HCl was added and the reaction mixture was extractedonce with ether. The aqueous phase was basified with 50% NaOH and extractedwith ether. The ether phases were dried and evaporated to give crude title compound.

reactant | Sodium hydrogen sulfide monohydrate | 4.4 mmol, 0.33 g | O.S.[Na]
reactant | 3-(3-chloro-1,2,5-thiadiazol-4-yl)-6-methylpyridine | 4mmol, 0.85 g | ClC1=NSN=C1C=1C=NC(=CC1)C | C8H6ClN3S
reactant | Potassium carbonate | 12 mmol, 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-hexylbromide | 6 mmol, 0.99 g | C(CCCCC)Br | C6H13Br
reactant | HCl | 1N | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 3-(3-Hexylthio-1,2,5-thiadiazol-4-yl)-6-methylpyridine | C(CCCCC)SC1=NSN=C1C=1C=NC(=CC1)C | C14H19N3S2
